US07138533B2
tert-Butyl 5-[1-[(ethylamino)carbonyl]-2,3-dihydro-1H-indol-5-yl]-5-oxopentyl[2-(2-methoxyphenyl)ethyl]carbamate
Ethyl isocyanate (85 mg) was added to a solution of tert-butyl 5-(2,3-dihydro-1H-indol-5-yl)-5-oxopentyl[2-(2-methoxyphenyl)ethyl]carbamate (362 mg) obtained in Reference Example 50 in tetrahydrofuran (2 ml), and the mixture was stirred at 60° C. for 2 hours. The solvent was evaporated under reduced pressure, water was added to the resulting residue, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was-purified by silica gel chromatography (eluting solvent; hexane:ethyl acetate=1:1) to give the title compound as a pale yellow oil (254 mg).

reactant | Ethyl isocyanate | 85 mg | C(C)N=C=O | C3H5NO
reactant | tert-butyl 5-(2,3-dihydro-1H-indol-5-yl)-5-oxopentyl[2-(2-methoxyphenyl)ethyl]carbamate | 362 mg | N1CCC2=CC(=CC=C12)C(CCCCN(C(OC(C)(C)C)=O)CCC1=C(C=CC=C1)OC)=O | C27H36N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | tert-Butyl 5-[1-[(ethylamino)carbonyl]-2,3-dihydro-1H-indol-5-yl]-5-oxopentyl[2-(2-methoxyphenyl)ethyl]carbamate | 254 mg | C(C)NC(=O)N1CCC2=CC(=CC=C12)C(CCCCN(C(OC(C)(C)C)=O)CCC1=C(C=CC=C1)OC)=O | C30H41N3O5
